US05874440
6-Propionamido-2-(2-propoxyphenyl)pyrimidin-4[3H]-one
A stirred solution of 6-amino-2-(2-propoxyphenyl)pyrimidin-4[3H]-one (0.50 g) and propionic anhydride (5 ml) was heated at 140° C. for 2.5 hours. Water and ethanol was added to the cooled reaction mixture which was then evaporated under reduced pressure to half volume. A precipitate was collected, washed with water and recrystallized from ethanol to yield the title compound, 0.41 g, m.p. 228°-90° C.

reactant | 6-amino-2-(2-propoxyphenyl)pyrimidin-4[3H]-one | 0.50 g | NC1=CC(NC(=N1)C1=C(C=CC=C1)OCCC)=O | C13H15N3O2
reactant | propionic anhydride | 5 ml | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | Water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 6-Propionamido-2-(2-propoxyphenyl)pyrimidin-4[3H]-one | C(CC)(=O)NC1=CC(NC(=N1)C1=C(C=CC=C1)OCCC)=O | C16H19N3O3
